US05264577
Step B: Preparation of α-Amino-10,11-dihydro-5H -dibenzo[a,d]cycloheptene-5-acetic acid, hydrochloride
Ethyl α-amino-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene-5-acetate hydrochloride (13 g, 39 mmol) is stirred with 400 mL of IM ethanolic potassium hydroxide solution at room temperature overnight. Ethanol is stripped and the solid taken up in water, extracted with diethyl ether, and acidified with 1N hydrochloric acid to pH 1. A precipitate is collected by filtration, washed with diethyl ether, dried at 50° C./2 mm Hg to furnish 8.81 g of the title compound; mp >285° C.

reactant | Ethyl α-amino-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene-5-acetate hydrochloride | 39 mmol, 13 g | Cl.NC(C(=O)OCC)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2
reactant | potassium hydroxide | [OH-].[K+]
reactant | Ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | α-Amino-10,11-dihydro-5H -dibenzo[a,d]cycloheptene-5-acetic acid, hydrochloride | 8.81 g | Cl.NC(C(=O)O)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C17H17NO2.ClH/c18-16(17(19)20)15-13-7-3-1-5-11(13)9-10-12-6-2-4-8-14(12)15;/h1-8,15-16H,9-10,18H2,(H,19,20);1H
